US07572820B2
4-Chloro-1-{[5-(3,5-dimethyl-4-isoxazolyl)-1,2,4-oxadiazol-3-yl]methyl}-2-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 4 from 4-chloro-2-(trifluoromethyl)-1H-indole-5-carbonitrile and 3-(chloromethyl)-5-(3,5-dimethyl-4-isoxazolyl)-1,2,4-oxadiazole: 1H NMR (400 MHz, DMSO-d6) δ 7.97 (d, J=8.5 Hz, 1H), 7.87 (d, J=8.5 Hz, 1H), 7.50 (s, 1H), 5.93 (s, 2H), 2.64 (s, 3H), 2.37 (s, 3H); MS (ES) m/z 422 (M+1).

reactant | 4-chloro-2-(trifluoromethyl)-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)C(F)(F)F | C10H4ClF3N2
reactant | 3-(chloromethyl)-5-(3,5-dimethyl-4-isoxazolyl)-1,2,4-oxadiazole | ClCC1=NOC(=N1)C=1C(=NOC1C)C | C8H8ClN3O2
product | 4-Chloro-1-{[5-(3,5-dimethyl-4-isoxazolyl)-1,2,4-oxadiazol-3-yl]methyl}-2-(trifluoromethyl)-1H-indole-5-carbonitrile | ClC1=C2C=C(N(C2=CC=C1C#N)CC1=NOC(=N1)C=1C(=NOC1C)C)C(F)(F)F | C18H11ClF3N5O2
